US08633173B2
1-Ethyl-4-(4-nitro-phenyl)-perhydro-1,4-azaphosphorine 4-oxide (269.80 mg, 1.0058 mmol) dissolved in Ethanol (50 mL) and treated with palladium on carbon 10% (90:10, carbon black:Palladium, 30 mg, 2 mmol), 2.5 M of hydrogen chloride in ethanol (1.21 mL, 3.02 mmol) and 50 PSI of hydrogen gas. The mixture was shaken on a Parr apparatus for 5 hours. The mixture was degassed and backflushed with nitrogen. The mixture was filtered through a plug of diatomaceous earth and washed with ethanol. The filtrate was evaporated. 4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)aniline hydrochloride was isolated (401 mg, 145%). MS=238 (MH)+.

reactant | 1-Ethyl-4-(4-nitro-phenyl)-perhydro-1,4-azaphosphorine 4-oxide | 1.0058 mmol, 269.80 mg | C(C)N1CCP(CC1)(C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17N2O3P
reactant | hydrogen chloride | 2.5 M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | Ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2 mmol, 30 mg | [Pd] | Pd
solvent | ethanol | 3.02 mmol, 1.21 mL | C(C)O | C2H6O
product | 4-(1-ethyl-4-oxido-1,4-azaphosphinan-4-yl)aniline hydrochloride | Cl.C(C)N1CCP(CC1)(=O)C1=CC=C(N)C=C1 | InChI=1S/C12H19N2OP.ClH/c1-2-14-7-9-16(15,10-8-14)12-5-3-11(13)4-6-12;/h3-6H,2,7-10,13H2,1H3;1H
